US06177400B1
Preparation of 4,6,6-trimethyl-1,3-cyclohexadiene-1-methanol
A solution of 20 g (133 mole) of 4,6,6-trimethyl-1,3-cyclohexadiene-1-carbaldehyde in 100 ml of diethylether was added to a suspension of 1.5 g (39 mmole) of LiAlH4 in diethylether, under stirring and cooling with an ice-bath. After 1 h of reaction time, the mixture was hydrolyzed, the organic layer was separated, washed and dried and concentrated. The crude product was then distilled in vacuo, b.p. 60°/20 hPa, to obtain 11.6 g (56%) of the desired product.

reactant | 4,6,6-trimethyl-1,3-cyclohexadiene-1-carbaldehyde | 133 mole, 20 g | CC1=CC=C(C(C1)(C)C)C=O | C10H14O
reactant | LiAlH4 | 39 mmole, 1.5 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | diethylether | 100 ml | C(C)OCC | C4H10O
product | 4,6,6-trimethyl-1,3-cyclohexadiene-1-methanol | 11.6 g, 56% | CC1=CC=C(C(C1)(C)C)CO | C10H16O
